US04772600
2-(5-Methyl-2-thienyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
A mixture of 2-(5-methyl-2-thienyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0183 mole) and 1,1'-carbonyldiimidazole (2.97 g, 0.0183 mole) was stirred at room temperature in dry tetrahydrofuran (100 ml) for 2.5 hours with a stream of nitrogen bubbling through it. The reaction mixture was cooled in a dry ice/acetone bath, and liquid ammonia (50 ml) was added. The mixture was allowed to warm to room temperature and was stirred for 2 days under nitrogen atmosphere. The solvents were removed under reduced pressure and the resulting solid was triturated in water, collected by filtration, rinsed twice with water, twice with a 5% potassium hydroxide solution and twice again with water. The solid was recrystallized from hot methanol and dried under high vacuum at 40° C. to give 2.82 g (56%) of title compound, mp>250° C.

reactant | 2-(5-methyl-2-thienyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0183 mole, 5.0 g | CC1=CC=C(S1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C13H11N3O2S
reactant | 1,1'-carbonyldiimidazole | 0.0183 mole, 2.97 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 50 ml | N | H3N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(5-Methyl-2-thienyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 2.82 g, 56% | CC1=CC=C(S1)C1=NC=2C(=NC=CC2)N1CC(=O)N | C13H12N4OS
